US06140274
A mixture of 0.57 g of 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(4-(4,4-dichloro-5,5,5-trifluoro-3-hydroxypentyloxy)butyloxy)benzene, 0.16 g of pyridine, 0.12 g of acetic anhydride, 10 mg of N,N-dimethyl-4-aminopyridine and 20 ml of N,N-dimethylformamide was stirred at room temperature for 30 minutes, to which 0.078 g of zinc dust was added. The reaction mixture was further stirred at room temperature for 1 hour, poured into 20 ml of diluted hydrochloric acid and extracted twice with 50 ml of diethyl ether. The diethyl ether layers were combined, washed with water, dried over magnesium sulfate and then evaporated to give a crude product. The crude product was subjected to silica gel chromatography, which afforded 0.41 g of (Z)-3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(4-(4-chloro-5,5,5-trifluoro-3-pentenyloxy)butyloxy)benzene [the integrated CF3 signal ratio of Z/E=93/7 as determined by 19F-NMR (CDCl3 /CFCl3)] (yield, 79%), nD30.0 1.5057.

reactant | 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(4-(4,4-dichloro-5,5,5-trifluoro-3-hydroxypentyloxy)butyloxy)benzene | 0.57 g | ClC=1C=C(C=C(C1OCCCCOCCC(C(C(F)(F)F)(Cl)Cl)O)Cl)OCC=C(Cl)Cl | C18H19Cl6F3O4
reactant | pyridine | 0.16 g | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.12 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | 20 ml | Cl | ClH
catalyst | N,N-dimethyl-4-aminopyridine | 10 mg | CN(C)C1=CC=NC=C1 | C7H10N2
catalyst | zinc | 0.078 g | [Zn] | Zn
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | (Z)-3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(4-(4-chloro-5,5,5-trifluoro-3-pentenyloxy)butyloxy)benzene | 0.41 g | ClC=1C=C(C=C(C1OCCCCOCC\C=C(\C(F)(F)F)/Cl)Cl)OCC=C(Cl)Cl | C18H18Cl5F3O3
